* LVS reference for the SELn<i> inverter bank (issue #103).
*
* Mechanically generated -- DO NOT HAND-EDIT. Regenerate with:
*   layout/seln-inverters/bin/generate-lvs-reference.py [netlist.v]
*
* Topology source: seln-inverters/reports/20260917-180644-527ec73/seln_inverters_post_route.v
* (klt place-and-route's own post-route `write_verilog` dump).
*
* Flat, transistor-level (klt extract --deck sky130 is a flat
* extractor), device classes generalized to nfet/pfet. Device
* models: the sky130 PDK's own official CDL
* (libs.ref/sky130_fd_sc_hd/cdl/sky130_fd_sc_hd.cdl), Apache-2.0
* licensed, SkyWater's own release -- not reverse-engineered.
.SUBCKT seln_inverters DOUT8 DOUT7 DOUT6 DOUT5 DOUT4 DOUT3 DOUT2 DOUT1 DOUT0 SELn8 SELn7 SELn6 SELn5 SELn4 SELn3 SELn2 SELn1 SELn0 VPWR VGND
Mxinv_seln0_MMIN1 SELn0 DOUT0 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln0_MMIP1 SELn0 DOUT0 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln1_MMIN1 SELn1 DOUT1 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln1_MMIP1 SELn1 DOUT1 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln2_MMIN1 SELn2 DOUT2 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln2_MMIP1 SELn2 DOUT2 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln3_MMIN1 SELn3 DOUT3 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln3_MMIP1 SELn3 DOUT3 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln4_MMIN1 SELn4 DOUT4 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln4_MMIP1 SELn4 DOUT4 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln5_MMIN1 SELn5 DOUT5 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln5_MMIP1 SELn5 DOUT5 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln6_MMIN1 SELn6 DOUT6 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln6_MMIP1 SELn6 DOUT6 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln7_MMIN1 SELn7 DOUT7 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln7_MMIP1 SELn7 DOUT7 VPWR VPWR pfet L=0.15U W=1.0U
Mxinv_seln8_MMIN1 SELn8 DOUT8 VGND VGND nfet L=0.15U W=0.65U
Mxinv_seln8_MMIP1 SELn8 DOUT8 VPWR VPWR pfet L=0.15U W=1.0U
.ENDS seln_inverters
